************************************************************************
* auCdl Netlist:
* 
* Library Name:  MOD_5_Counter
* Top Cell Name: AND
* View Name:     schematic
* Netlisted on:  Sep 17 20:26:53 2021
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: MOD_5_Counter
* Cell Name:    AND
* View Name:    schematic
************************************************************************

.SUBCKT AND A B GND VDD Y
*.PININFO A:I B:I Y:O GND:B VDD:B
MNM3 Y net15 GND GND N_12_LLRVT W=200e-9 L=60n M=1
MNM1 net23 B GND GND N_12_LLRVT W=200e-9 L=60n M=1
MNM0 net15 A net23 GND N_12_LLRVT W=200e-9 L=60n M=1
MPM2 net15 B VDD VDD P_12_LLRVT W=400e-9 L=60n M=1
MPM1 net15 A VDD VDD P_12_LLRVT W=400e-9 L=60n M=1
MPM0 Y net15 VDD VDD P_12_LLRVT W=400e-9 L=60n M=1
.ENDS

