************************************************************************
* auCdl Netlist:
* 
* Library Name:  MOD_5_Counter
* Top Cell Name: NAND_3
* View Name:     schematic
* Netlisted on:  Sep 17 20:40:23 2021
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: MOD_5_Counter
* Cell Name:    NAND_3
* View Name:    schematic
************************************************************************

.SUBCKT NAND_3 A B C GND VDD Y
*.PININFO A:I B:I C:I Y:O GND:B VDD:B
MNM2 net20 C GND GND N_12_LLRVT W=200e-9 L=60n M=1
MNM1 net21 B net20 GND N_12_LLRVT W=200e-9 L=60n M=1
MNM0 Y A net21 GND N_12_LLRVT W=200e-9 L=60n M=1
MPM2 Y C VDD VDD P_12_LLRVT W=400e-9 L=60n M=1
MPM1 Y B VDD VDD P_12_LLRVT W=400e-9 L=60n M=1
MPM0 Y A VDD VDD P_12_LLRVT W=400e-9 L=60n M=1
.ENDS

